US05824691
To a solution of guanidine hydrochloride (62.1 g) in N,N-dimethylformamide (150 ml) was added 28% sodium methoxide in methanol (106 ml) under nitrogen. After being stirred for 30 minutes at room temperature, to the reaction mixture was added a solution of methyl 3-hydroxymethyl-5-(pyrrol-1-yl)benzoate (30.0 g) in N,N-dimethylformamide (150 ml). After being stirred for 21 hours at room temperature, the reaction mixture was poured into water (1.5 l) with stirring. The resulting precipitate was collected by filtration, washed with water and purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (10:1). The eluted fractions containing the desired product were collected and evaporated in vacuo. The residue was dissolved in ethanol (70 ml) and crystallized from slight excess 4N-hydrogen chloride-ethyl acetate. The crystalline was recrystallized from an aqueous ethanol to afford 2-[3-hydroxymethyl-5-(pyrrol-1-yl)benzoyl]guanidine hydrochloride (7.3 g).

reactant | guanidine hydrochloride | 62.1 g | Cl.NC(=N)N
reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl 3-hydroxymethyl-5-(pyrrol-1-yl)benzoate | 30.0 g | OCC=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C13H13NO3
reactant | water | 1.5 l | O | H2O
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | methanol | 106 ml | CO | CH4O
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-[3-hydroxymethyl-5-(pyrrol-1-yl)benzoyl]guanidine hydrochloride | 7.3 g | Cl.OCC=1C=C(C(=O)N=C(N)N)C=C(C1)N1C=CC=C1 | InChI=1S/C13H14N4O2.ClH/c14-13(15)16-12(19)10-5-9(8-18)6-11(7-10)17-3-1-2-4-17;/h1-7,18H,8H2,(H4,14,15,16,19);1H
